US07432260B2
N-{5-[2-(4-Fluoro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-methanesulfonamide [31].
This compound was prepared from [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine by treatment with methylsulfonyl chloride and Et3N in DMF. Gray solid; 1H-NMR (DMSO-d6) δ: 3.31 (s, 3H, CH3), 3.63 (s, 3H, CH3), 7.32 (m, 1H, pyrimidinyl-H), 7.42 (m, 2H, Ph-H), 8.11 (m, 2H, Ph-H), 8.63 (d, 1H, J=5.0 Hz, pyrimidinyl-H).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)F | C14H12FN5S
reactant | methylsulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-{5-[2-(4-Fluoro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-methanesulfonamide | FC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NS(=O)(=O)C)C | C15H14FN5O2S2
